US07875639B2
5-(2,2,2-trifluoroethyl)thiazol-2-amine
A mixture of 4,4,4-trifluorobutyraldehyde (Matrix), pyrrolidine, p-toluenesulfonic acid monohydrate, sulfur and cyanamide were processed using the method described in Example 136A to obtain the title compound. MS (ESI+) m/z 183 (M+H)+.

reactant | 4,4,4-trifluorobutyraldehyde | FC(CCC=O)(F)F | C4H5F3O
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sulfur | [S] | S
reactant | cyanamide | N#CN | CH2N2
product | 5-(2,2,2-trifluoroethyl)thiazol-2-amine | FC(CC1=CN=C(S1)N)(F)F | C5H5F3N2S
